US07705053B2
Production of 3-N-(1H-indol-5-yl)-4-methoxyisophthalamide (Compound 1-3-40)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 5-aminoindole by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | 3-N-(1H-indol-5-yl)-4-methoxyisophthalamide | N1C=CC2=CC(=CC=C12)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C17H15N3O3
